US05646173
A solution of 1.5 g of (S)-2-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine, 0.74 g of triethylamine and 1.04 g of ethyl trifluoroacetate in 100 ml of anhydrous methanol was stirred at room temperature for 27 hours. After the solvent had been drawn off in a vacuum, the residue was taken up with 100 ml of ahydrous dioxane, 1.56 g of DDQ were added and the mixture was boiled under reflux for 1.5 hours. Subsequently, the reaction mixture was concentrated in a vacuum and the residue was purified by column chromatography on silica gel (dichloromethane/acetone 4:1). 1.2 g (59%) of (S)-N-[2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethyl]-trifluoracetamide were obtained as a pale brown solid which was used in the next reaction without additional recrystallization.

reactant | (S)-2-(4,5-dihydro-8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethylamine | 1.5 g | COC1=CC2=C(CCC=3C=CN(C23)C[C@H](C)N)C=C1 | C16H20N2O
reactant | triethylamine | 0.74 g | C(C)N(CC)CC | C6H15N
reactant | ethyl trifluoroacetate | 1.04 g | FC(C(=O)OCC)(F)F | C4H5F3O2
reactant | DDQ | 1.56 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | methanol | 100 ml | CO | CH4O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | (S)-N-[2-(8-methoxy-1H-benz[g]indol-1-yl)-1-methyl-ethyl]-trifluoracetamide | 1.2 g, 59% | COC1=CC=2C(=CC=C3C=CN(C23)C[C@H](C)NC(C(F)(F)F)=O)C=C1 | C18H17F3N2O2
